US05714487
A solution of 1.65 g (6.35 mmol) of (7RS,8aSR)-7-hydroxymethyl-7-methyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 4) in 20 mL of methanol was mixed with 4.44 mL (22.2 mmol) of 5M aqueous ammonium formate, an aqueous slurry of 0.825 g of 10% palladium on carbon was added and the mixture was stirred at ambient temperature overnight. The solution was filtered through Celite and evaporated to give (7RS,8aSR)-7-hydroxymethyl-7-methyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine of sufficient purity for use in the next step.

reactant | (7RS,8aSR)-7-hydroxymethyl-7-methyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 6.35 mmol, 1.65 g | OCC1(CC2N(CCN(C2)CC2=CC=CC=C2)C1)C | C16H24N2O
reactant | ammonium formate | 22.2 mmol, 5M, 4.44 mL | C(=O)[O-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 0.825 g | [Pd] | Pd
product | (7RS,8aSR)-7-hydroxymethyl-7-methyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | OCC1(CC2N(CCNC2)C1)C | C9H18N2O
